US07776877B2
A solution of N-(2-bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-benzene sulfonamide (226 mg, 0.559 mmol), 1H-pyrazolo[4,3-b]pyridine (100 mg, 0.839 mmol), trans-N,N′-dimethyl-cyclohexane-1,2-diamine (18 μL, 0.112 mmol), copper iodide (22 mg, 0.112 mmol), and cesium carbonate (383 mg, 1.17 mmol) in 2 mL of N,N-dimethylacetamide was heated at 130° C. for 2 hours. Ethyl acetate and water were added and the layers were separated. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude reside was subsequently purified by flash column chromatography (0-100% ethyl acetate in hexanes) to afford 4-tert-butyl-N-(5-chloro-2-pyrazolo[4,3-b]pyridin-1-yl-pyridin-3-yl) -benzenesulfonamide: MS (ES) M+H expected 442.1, found 442.0.

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-benzene sulfonamide | 0.559 mmol, 226 mg | BrC1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)Cl | C15H16BrClN2O2S
reactant | 1H-pyrazolo[4,3-b]pyridine | 0.839 mmol, 100 mg | N1N=CC2=NC=CC=C21 | C6H5N3
reactant | trans-N,N′-dimethyl-cyclohexane-1,2-diamine | 0.112 mmol, 18 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | cesium carbonate | 1.17 mmol, 383 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
catalyst | copper iodide | 0.112 mmol, 22 mg | [Cu](I)I
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-tert-butyl-N-(5-chloro-2-pyrazolo[4,3-b]pyridin-1-yl-pyridin-3-yl) -benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)N1N=CC2=NC=CC=C21 | C21H20ClN5O2S
